US06166041
Preparation of 4-chloro-2-[2-(pyridin-2-yl)ethyl]phenol
To a solution of 24.0 g (74.57 mmol) 4-chloro-2-[2-(pyridin-2-yl)vinyl]-phenol in 400 ml ethanol is added 1.0 g palladium on charcoal 10% followed by 23.5 g (373 mmol) ammonium formate. The reaction mixture is then heated in an oil bath at 60° C. for 6 hours under a nitrogen atmosphere. The reaction mixture is filtered through celite, and the filtrate evaporated in vacuo to leave a colorless solid. Distilled water is added to the residue, which is extracted with 500 ml and then 300 ml DCM. The organic extracts were dried using MgSO4 and concentrated in vacuo to give the title compound as a colourless solid (15.81 g, 91%), m.p. 135-137° C. δH (250 MHz, CDCl3) 8.52-8.49 (dd, J=5.8,1.7 Hz, 1H), 7.65 (dt, J=7.8,1.7 Hz, 1H), 7.26-7.17 (m, 2H) 7.11 (d, J=2.6 Hz, 1H), 7.04 (dd, J=8.6, 2.6 Hz, 1H), 6.81 (d, J=8.6 Hz, 1H), 3.31-3.26 (m, 2H), 3.10-3.05 (m, 2H).

reactant | 4-chloro-2-[2-(pyridin-2-yl)vinyl]-phenol | 74.57 mmol, 24.0 g | ClC1=CC(=C(C=C1)O)C=CC1=NC=CC=C1 | C13H10ClNO
reactant | ammonium formate | 373 mmol, 23.5 g | C(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | 4-chloro-2-[2-(pyridin-2-yl)ethyl]phenol | 15.81 g, 91% | ClC1=CC(=C(C=C1)O)CCC1=NC=CC=C1 | C13H12ClNO
